US04431647
Step A: Preparation of trans-2-(N-methyl-N-acetoacetylamino)-1-indanol (IV)
To a solution of trans-2-methylamino-1-indanol (4.9 g, 0.03 m) in 100 ml of ethanol was added 2.8 g (0.033 m) of diketene. After stirring about 1 hour the mixture was concentrated to dryness in vacuo. The residue was dissolved in acetonitrile and the solvent was evaporated in vacuo to 6.3 g (85%) of an oily residue which was used directly in the next step.

reactant | trans-2-methylamino-1-indanol | 4.9 g | CN[C@H]1[C@@H](C2=CC=CC=C2C1)O | C10H13NO
reactant | diketene | 2.8 g | C=C1CC(=O)O1 | C4H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | trans-2-(N-methyl-N-acetoacetylamino)-1-indanol | CN(C(CC(=O)C)=O)[C@H]1[C@@H](C2=CC=CC=C2C1)O | C14H17NO3
